### PR TITLE
[WIP] Make linear subspaces canonically a `tbLatticeType`

### LINKED ISSUE #613: Modular lattice of linear subspaces
The subspaces `{vspace vT}` of a vector space `vT` (defined in `vector.v`) seem to form a lattice. [A Wikipedia article](https://en.wikipedia.org/wiki/Linear_subspace) says that "the operations intersection and sum make the set of all (linear) subspaces a bounded modular lattice". So we may apply the lattice theory to reason about vector subspaces by defining this lattice structure instance. Also, the modular lattice structures are intermediate ones between `(tb)LatticeType` and `(tb)DistrLatticeType`. So it would be nice to have them in `order.v`. Does this make sense? Is there any good literature on this topic?

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This is my first attempt to make linear subspaces `{vspace vT}` canonically a `tbLatticeType`. In `vector.v`, some operators for linear subspace (`subsetv`, `fullv`, `addv`, and `capv`) have been redefined as notations for order operators. *The first obstacle is that `falgebra.v` does not compile since both `prodv` and `capv` (`Order.meet`) distributes over `addv` (`Order.join`) and so `addv_addoid` (in `falgebra.v`) is now redundant with `join_addoid` (in `order.v`).*

Closes #613

##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/vector.v [hunk 1]
```diff
@@ -2045,6 +2041,239 @@ Qed.
...
+
+Lemma addvC : commutative addV. Proof. exact: joinC. Qed.
+
+Lemma addvA : associative addV. Proof. exact: joinA. Qed.
+
+Lemma addv_idPl {U V}: reflect (U + V = U)%VS (V <= U)%VS.
+Proof. exact: join_idPr. Qed.
+
+Lemma addv_idPr {U V} : reflect (U + V = V)%VS (U <= V)%VS.
+Proof. exact: join_idPl. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/vector.v:2099]: It seems like the names `join_idP(l|r)` are transposed. Should be fixed in 1.12. @CohenCyril https://github.com/math-comp/math-comp/blob/0606b6bf22e258dc3b7cf440f10c108f785904b5/mathcomp/ssreflect/order.v#L3642-L3645

File: mathcomp/algebra/vector.v [hunk 2]
```diff
@@ -596,50 +662,8 @@ End BigSum.
...
-
-Lemma capvf : right_id fullv capV.
-Proof. by move=> U; apply/capv_idPl/subvf. Qed.
-
-Canonical capv_monoid := Monoid.Law capvA capfv capvf.
-Canonical capv_comoid := Monoid.ComLaw capvC.
-
 Lemma memv_cap w U V : (w \in U :&: V)%VS = (w \in U) && (w \in V).
-Proof. by rewrite !memvE subv_cap. Qed.
+Proof. by rewrite !memvE lexI. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/vector.v:666]: If `_ \in _` for linear subspaces is defined by using `Order.le` as in intervals, this proof can probably be `exact: lexI`. (I think it requires some more work.) https://github.com/math-comp/math-comp/blob/0606b6bf22e258dc3b7cf440f10c108f785904b5/mathcomp/algebra/interval.v#L493-L494

File: mathcomp/algebra/vector.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/algebra/vector.v:2103]: Well spotted!

Comment (pi8027) [reply mathcomp/algebra/vector.v:2103]: See #671

**Comment by pi8027** [comment]
> *The first obstacle is that `falgebra.v` does not compile since both `prodv` and `capv` (`Order.meet`) distributes over `addv` (`Order.join`) and so `addv_addoid` (in `falgebra.v`) is now redundant with `join_addoid` (in `order.v`).*

Redefining `Monoid.add_law` as follows would probably solve this issue. But, if there is a multiplication-like operator that distributes over two different addition-like operators, it does not work. Is there any plan to extend the `bigop` hierarchy? https://github.com/math-comp/math-comp/blob/ee410eb85f36f5e366f807207a7dee8f3e1bdf3a/mathcomp/ssreflect/bigop.v#L349-L354
```coq
(* We have to swap its parameter (multiplication) and the first projection    *)
(* (addition) so that its canonical instances can be indexed by constants of  *)
(* multiplication rather than addition.                                       *)
Structure mul_distr_law (add : T -> T -> T) := MulDistrLaw {
  mul_distr_operator : T -> T -> T;
  (* The following two axioms are part of `mul_law`. A telescope cannot be used here anymore. *)
  _ : left_zero idm mul_distr_operator;
  _ : right_zero idm mul_distr_operator;

  _ : left_distributive mul_distr_operator add;
  _ : right_distributive mul_distr_operator add
}.
```

**Comment by pi8027** [comment]
> But, if there is a multiplication-like operator that distributes over two different addition-like operators, it does not work.

I self answer this: `muln` distributes over `maxn` and `addn`, and so it does not work.
